US06156892
In a 0.3-liter four-necked flask, 15.0 g (88.5 mmol) of 2-amino-6-chloropurine (manufactured by Sumika Fine Chemicals Co., Ltd.) and 26.9 g (194.6 mmol) of potassium carbonate were added to 195 ml of dimethylsulfoxide, and 8.0 g (442.5 mmol) of water was then added to the resulting mixture. The resulting mixture was stirred at room temperature. Next, 42.2 g (132.9 mmol) of diisopropyl 2,2,2-trichloroethylidenemalonate, which was prepared by the process described in U.S. Pat. No. 3,495,012, was added to the resulting mixture, and the mixture was stirred for two hours and a half at room temperature. Thereafter, the reaction mixture was filtered, and the filtrate was poured into water. The precipitated crystals were washed with 100 ml of water, collected by filtration, and then recrystallized from isopropyl alcohol, to give 27.1 g (60.1 mmol) of pale yellow crystals of 2-amino-6-chloro-9-(3,3-dicarboisopropoxy-2,2-dichlorocyclopropyl)purine. The yield was 67.9%.

reactant | 2-amino-6-chloropurine | 88.5 mmol, 15.0 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | potassium carbonate | 194.6 mmol, 26.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 442.5 mmol, 8.0 g | O | H2O
reactant | 2-amino-6-chloro-9-(3,3-dicarboisopropoxy-2,2-dichlorocyclopropyl)purine | NC1=NC(=C2N=CN(C2=N1)C1C(C1(C(=O)OC(C)C)C(=O)OC(C)C)(Cl)Cl)Cl | C16H18Cl3N5O4
solvent | dimethylsulfoxide | 195 ml | CS(=O)C | C2H6OS
product | diisopropyl 2,2,2-trichloroethylidenemalonate | 132.9 mmol, 42.2 g, yield was 67.9% | ClC(C=C(C(=O)OC(C)C)C(=O)OC(C)C)(Cl)Cl | C11H15Cl3O4
